US06355633B1
4-Methanesulfonylmethylbenzoic Acid
A solution of commercially available methyl 4-(methanesulphonylmethyl)benzoate (1.00 g, 4.4 mmol) in 2M NaOH (25 mL) was heated at reflux for 30 minutes under N2. The reaction mixture was cooled to 0° C. and acidified with 2M HCl (15 mL) to a pH below 2. The white precipitate was filtered and dried to provide the title compound as a white solid (0.95 g, 97% yield): 1HNMR (DMSO-d6) δ2.97 (s, 3H), 4.61 (s, 2H), 7.49 (d, J=0.5 Hz, 2H), 7.94-7.98 (d, J=0.5 Hz, 2H), 13.00 (s, 1H): MS (ESI) [M−H]− at m/z 213.

reactant | methyl 4-(methanesulphonylmethyl)benzoate | 4.4 mmol, 1.00 g | CS(=O)(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H12O4S
reactant | HCl | 2M, 15 mL | Cl | ClH
solvent | NaOH | 2M, 25 mL | [OH-].[Na+]
product | 4-Methanesulfonylmethylbenzoic Acid | 0.95 g, 97% yield | CS(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C9H10O4S
